US05840917
2-Methyl-2-(2-thienyl)-1,3-dioxolan (6.6 g) (synthesized in accordance with the method described in Tetrahedron, 41, 3803 (1985)) was dissolved in tetrahydrofuran (200 ml), and N,N,N', N'-tetramethylethylenediamine (5.87 ml) was added. The mixture was cooled to -78° C., and n-butyllithium (1.6M in hexane, 25 ml) was slowly added dropwise. The mixture was stirred at the same temperature for 2 hours, and warmed slowly to room temperature for a period of 2 hours with introducing carbon dioxide gas. The reaction mixture was concentrated under reduced pressure, and 2N hydrochloric acid (200 ml) was added. The mixture was stirred for 3 hours, and precipitated crystals were collected by filtration, washed with water and dried to give 5-acetyl-2-thiophenecarboxylic acid (3.87 g) as crystals.

reactant | 2-Methyl-2-(2-thienyl)-1,3-dioxolan | 6.6 g | CC1(OCCO1)C=1SC=CC1 | C8H10O2S
reactant | N,N,N', N'-tetramethylethylenediamine | 5.87 ml | CN(CCN(C)C)C | C6H16N2
reactant | n-butyllithium | 1.6M, 25 ml | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 5-acetyl-2-thiophenecarboxylic acid | 3.87 g | C(C)(=O)C1=CC=C(S1)C(=O)O | C7H6O3S
